US07893060B2
1-Bromo-5-fluoro-2-methyl-3-nitro-benzene
To a solution of 4-fluoro-2-nitrotoluene (10.0 g, 64.4 mmol) in trifluoroacetic acid (40 mL) was added concentrated sulfuric acid (12.5 mL) followed by N-bromosuccinimide (17.2 g, 96.6 mmol) and the reaction mixture was stirred at RT for 16 h. The reaction mixture was then poured onto ice and water and stirred for 15 min. The product was then extracted into EtOAc and the organic layer washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound as a pale oil which crystallised out on standing (11.76 g, 77%). NMR δH (300 MHz, CDCl3) 2.59 (s, 3H), 7.50 (dd, J=2.8, 7.6, 1H) and 7.58 (dd, J=2.9, 7.4, 1H).

reactant | 4-fluoro-2-nitrotoluene | 64.4 mmol, 10.0 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | sulfuric acid | 12.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-bromosuccinimide | 96.6 mmol, 17.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Bromo-5-fluoro-2-methyl-3-nitro-benzene | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
